US04328162
A solution of 5.0 g methyl-m-iodobenzoate in 70 ml chloroform was cooled to 0°-10° and treated with gaseous chlorine for 1 hour. The resulting yellow solution was evaporated to afford 6.2 g methyl-m-iodobenzoate dichloride as yellow needles, mp=108°-110°. IR: 5.83, 7.80, 8.00, 8.90, 9.18, 10.52, 11.12, 12.39, and 13.48.

reactant | methyl-m-iodobenzoate | 5.0 g | COC(C1=CC(=CC=C1)I)=O | C8H7IO2
reactant | chlorine | ClCl | Cl2
solvent | chloroform | 70 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl-m-iodobenzoate dichloride | 6.2 g | [Cl-].[Cl-].COC(C1=CC(=CC=C1)I)=O | InChI=1S/C8H7IO2.2ClH/c1-11-8(10)6-3-2-4-7(9)5-6;;/h2-5H,1H3;2*1H/p-2
